US05939065
CSYE Dodine Broth
1.0 ml/l COMBIOTIC® (tradename for a streptomycin-pennicillin mixture) (Streptomycin, Penicillin Mixture, Pfizer Corp.)

reactant | Streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
reactant | Penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
product | Dodine | CCCCCCCCCCCCNC(=N)N | C13H29N3
